US03950376
5-Amino-4-phenoxy-3-(3-thienylmethylthio)benzoic acid
To a solution of 5-amino-3-mercapto-4-phenoxybenzoic acid (2.5 g) in 0.5 N sodium hydroxide (100 ml), a solution of 3-bromoethylthiophene (3.5 g in benzene (20 ml)) is added. The reaction mixture is stirred for 2 hours at room temperature. After extraction with additional benzene, the aqueous layer is acidified by addition of 4 N hydrochloric acid to precipitate 5-amino-4-phenoxy-3-(3-thienylmethylthio)benzoic acid. After collection by filtration, recrystallisation from aqueous ethanol and drying, the compound is obtained with a melting point of 153°-155° C.

reactant | 5-amino-3-mercapto-4-phenoxybenzoic acid | 2.5 g | NC=1C(=C(C=C(C(=O)O)C1)S)OC1=CC=CC=C1 | C13H11NO3S
reactant | 3-bromoethylthiophene | 20 ml, 3.5 g | BrCCC1=CSC=C1 | C6H7BrS
solvent | sodium hydroxide | 0.5 N, 100 ml | [OH-].[Na+]
product | 5-Amino-4-phenoxy-3-(3-thienylmethylthio)benzoic acid | NC=1C(=C(C=C(C(=O)O)C1)SCC1=CSC=C1)OC1=CC=CC=C1 | C18H15NO3S2
